US04126687
A mixture of 4.86 parts of 1-(3-chloropropyl)-1H-benzimidazole, 4.24 parts of 4-(4-chlorophenyl)-4-piperidinol, 5.3 parts of sodium carbonate, 0.1 parts of potassium iodide and 200 parts of 4-methyl-2-pentanone is stirred and refluxed for 20 hours with water-separator. The reaction mixture is cooled, water is added and the layers are separated. The organic phase is dried, filtered and evaporated. The residue is crystallized from 4-methyl-2-pentanone. The product is filtered off and dried, yielding 5 parts (67.6%) of 1-[3-(1H-benzimidazol-1-yl)propyl]-4-(4-chlorophenyl)-4-piperidinol; mp. 160° C.

reactant | 1-(3-chloropropyl)-1H-benzimidazole | ClCCCN1C=NC2=C1C=CC=C2 | C10H11ClN2
reactant | 4-(4-chlorophenyl)-4-piperidinol | ClC1=CC=C(C=C1)C1(CCNCC1)O | C11H14ClNO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 1-[3-(1H-benzimidazol-1-yl)propyl]-4-(4-chlorophenyl)-4-piperidinol | 67.6% | N1(C=NC2=C1C=CC=C2)CCCN2CCC(CC2)(O)C2=CC=C(C=C2)Cl | C21H24ClN3O
